US08686022B2
(S)-1-methyl-7-[4-(1-methyl-pyrrolidine-3-carbonyl)-piperazin-1-ylmethyl]-1H-indole-2-carboxylic acid (5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenyl)-amide
100 mg of (S)-1-methyl-7-[4-(pyrrolidine-3-carbonyl)-piperazin-1-ylmethyl]-1H-indole-2-carboxylic acid (5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenyl)-amide are dissolved in 10 ml of methanol, combined with 14 μl of a 37% solution of formaldehyde in water and 20 mg of palladium on charcoal (10%) and hydrogenated for 4 hours at 4 bar. The catalyst is filtered off, the solvents are eliminated in vacuo and the residue is chromatographed on aluminium oxide (dichloromethane/methanol 95:5 to 80:20).

reactant | (S)-1-methyl-7-[4-(pyrrolidine-3-carbonyl)-piperazin-1-ylmethyl]-1H-indole-2-carboxylic acid (5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenyl)-amide | 100 mg | C(C)(C)(C)C=1C=C(C(=C(C1)NC(=O)C=1N(C2=C(C=CC=C2C1)CN1CCN(CC1)C(=O)[C@@H]1CNCC1)C)OC)NS(=O)(=O)C | C32H44N6O5S
reactant | formaldehyde | C=O | CH2O
solvent | methanol | 10 ml | CO | CH4O
solvent | water | O | H2O
catalyst | palladium on charcoal | 20 mg | [Pd] | Pd
product | (S)-1-methyl-7-[4-(1-methyl-pyrrolidine-3-carbonyl)-piperazin-1-ylmethyl]-1H-indole-2-carboxylic acid (5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenyl)-amide | C(C)(C)(C)C=1C=C(C(=C(C1)NC(=O)C=1N(C2=C(C=CC=C2C1)CN1CCN(CC1)C(=O)[C@@H]1CN(CC1)C)C)OC)NS(=O)(=O)C | C33H46N6O5S
